US20010000513A1
A stirred suspension of 4-(4′-chloro-biphenyl-4-yl)-4-hydroxyimino-butyric acid (2.126 g, 0.00700 mol) and (4-methylphenyl)sulfonic acid monohydrate (0.067 g, 0.00035 mol) in toluene (22 mL) was heated under nitrogen at reflux over a Dean-Stark trap for 7 hours, and allowed to cool. The volatiles were rotary evaporated. The residue was dissolved/suspended in dichloromethane and chromatographed on silica gel (221 g, 230-400 mesh), eluting with dichloromethane (20×200 mL) to give 0.63 g of 3-(4′-chloro-biphenyl-4-yl)-4,5-dihydro-6-oxo-6H-1,2-oxazine as a light purple solid; mp 190-192° C.

reactant | 4-(4′-chloro-biphenyl-4-yl)-4-hydroxyimino-butyric acid | 0.00700 mol, 2.126 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)=NO | C16H14ClNO3
reactant | (4-methylphenyl)sulfonic acid monohydrate | 0.00035 mol, 0.067 g | O.CC1=CC=C(C=C1)S(=O)(=O)O
solvent | toluene | 22 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(4′-chloro-biphenyl-4-yl)-4,5-dihydro-6-oxo-6H-1,2-oxazine | 0.63 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C1=NOC(CC1)=O | C16H12ClNO2
